US06645968B2
N-[1-(1H-1,2,3-benzotriazol-1-yl)-2,2-dichloropropyl]-4-(trifluoromethyl)benzamide
A suspension of 4-(trifluoromethyl)benzamide, 2,2-dichloropropionaldehyde, benzotriazole, and p-toluenesulfonic acid was processed as described in Example 53A to provide the desired product.

reactant | 4-(trifluoromethyl)benzamide | FC(C1=CC=C(C(=O)N)C=C1)(F)F | C8H6F3NO
reactant | 2,2-dichloropropionaldehyde | ClC(C=O)(C)Cl | C3H4Cl2O
reactant | benzotriazole | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | N-[1-(1H-1,2,3-benzotriazol-1-yl)-2,2-dichloropropyl]-4-(trifluoromethyl)benzamide | N1(N=NC2=C1C=CC=C2)C(C(C)(Cl)Cl)NC(C2=CC=C(C=C2)C(F)(F)F)=O | C17H13Cl2F3N4O
